US04081542
Step A: Preparation of 6-phenylthio-2-chloropyrazine
A mixture of 2,6-dichloropyrazine (0.100 mol) and freshly distilled thiophenol (0.100 mol) in 200 ml. N,N-dimethylformamide is treated with five grams of sodium hydride (50% dispersion in Nujol) gradually with vigorous stirring under nitrogen at room temperature. After 3 hr. the mixture is concentrated in vacuo, and the residue partitioned between water and benzene. The benzene extract is washed with water, dried (anhydrous sodium sulfate), and concentrated in vacuo to an oil which is the crude title compound.

reactant | 2,6-dichloropyrazine | 0.100 mol | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | thiophenol | 0.100 mol | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | five grams | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-phenylthio-2-chloropyrazine | C1(=CC=CC=C1)SC1=CN=CC(=N1)Cl | C10H7ClN2S
